US04517202
6-[(E)-3-tert-Butyldimethylsilyloxy-4-phenoxybut-1-enyl)]-3-[(E)-4-methoxycarbonylbutylidene]-bicyclo[3,3,0]octan-2-one (21 mg), prepared as described in Reference Example 48 and in the form of (±)-6β-[(E)-3β-tert-butyldimethylsilyloxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S,15S)-6a-oxo-6,9-methano-15-tert-butyldimethylsilyloxy-16-phenoxy-17,18,19,20-tetranorprosta-5,13-dienoate, and a solution of water, glacial acetic acid and tetrahydrofuran (0.86 ml; 7:13:2 by volume) were stirred together at 40° C. for 4 hours. After cooling, the mixture was diluted with saturated aqueous sodium chloride solution and extracted with diethyl ether. The ethereal extract was washed with aqueous sodium bicarbonate solution (1M) and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulphate and concentrated under reduced pressure. The residue was subjected to medium pressure chromatography on silica gel, eluting with a mixture of ethyl acetate and hexane (1:1 v/v), to give 6-[(E)-3-hydroxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one (15.9 mg), in the form of (±)-6β-[(E)-3β-hydroxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one, otherwise known as (±)-methyl (5E,13E)-(9S,15S)-6a-oxo-6,9-methano-15-hydroxy-16-phenoxy-17,18,19,20-tetranorprosta-5,13-dienoate [NMR (in deuterochloroform): multiplets at 6.6-7.2, 6.3-6.6, 5.3-5.6, 4.3-4.5, 3.7-3.9, 1.3-2.8 p.p.m., singlet at 3.6 p.p.m⟧

reactant | 3-[(E)-4-methoxycarbonylbutylidene]-bicyclo[3,3,0]octan-2-one | 21 mg | COC(=O)CCC\C=C/1\C(C2CCCC2C1)=O | C14H20O3
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 0.86 ml | O1CCCC1 | C4H8O
solvent | sodium chloride | [Cl-].[Na+]
product | 6-[(E)-3-hydroxy-4-phenoxybut-1-enyl]-3-[(E)-4-methoxycarbonylbutylidene]bicyclo[3,3,0]octan-2-one | 15.9 mg | OC(/C=C/C1C2C\C(\C(C2CC1)=O)=C/CCCC(=O)OC)COC1=CC=CC=C1 | C24H30O5
